US06251926B1
Sodium hydride (60% in oil, 134 mg) was added to a solution of methyl E-4-(hydroxyimino)-4-phenylbutyrate (632 mg) and 4-[2-(4-chloromethylphenoxy)ethyl]-5-methyl-2-phenyloxazole (1.00 g) in N,N-dimethylformamide (10 ml) at room temperature under nitrogen atmosphere and stirred for 1 hour. 1N hydrochloric acid (5 ml) was added, an aqueous saturated solution of sodium bicarbonate was added and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was subjected to silica gel chromatography to obtain crystals from an ethyl acetate-hexane (1:3, v/v)-eluted fraction. The crystals were recrystallized from ethyl acetate-hexane to obtain methyl E-4-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]benzyloxyimino]-4-phenylbutyrate (650 mg, yield 43%) as colorless crystals. m.p. 73-74° C.

reactant | Sodium hydride | 134 mg | [H-].[Na+]
reactant | methyl E-4-(hydroxyimino)-4-phenylbutyrate | 632 mg | O\N=C(/CCC(=O)OC)\C1=CC=CC=C1 | C11H13NO3
reactant | 4-[2-(4-chloromethylphenoxy)ethyl]-5-methyl-2-phenyloxazole | 1.00 g | ClCC1=CC=C(OCCC=2N=C(OC2C)C2=CC=CC=C2)C=C1 | C19H18ClNO2
reactant | hydrochloric acid | 1N, 5 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | methyl E-4-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]benzyloxyimino]-4-phenylbutyrate | 650 mg, yield 43% | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(CO\N=C(/CCC(=O)OC)\C2=CC=CC=C2)C=C1 | C30H30N2O5
